### PR TITLE
Record that set quotients are effective

### PR DESCRIPTION
**Pull request by UlrikBuchholtz**
First PR; let me know if it's suitable.

### CODE REVIEW

File: src/Core/SetQuotients.lagda.tree [hunk 1]
```diff
@@ -167,3 +167,41 @@ module _ {𝓤 𝓥} {A : Type 𝓤} {R : A → A → Type 𝓥} where
...
+             ( is-equiv.bwd (propExt ~-is-prop ~-is-prop)
+                 ((λ s → transitive s r) , (λ s → transitive s (symmetric r)))
+             , is-truncated-is-prop -1𝕋 _ _ _))
+
+  unglue-quot : {a b : A} → ι-quot a ＝ ι-quot b → R a b
+  unglue-quot {a} {b} p
+    = coe (ap fst ( sym (Quot-rec-β ⦃ Prop-U-is-truncated ⦄ _ _ a)
+                  ∙ ap (rel-fam a) p
+                  ∙ Quot-rec-β ⦃ Prop-U-is-truncated ⦄ _ _ b))
+          reflexive
```
Comment (samtoth) [inline src/Core/SetQuotients.lagda.tree]: Does the following work?

```suggestion
    = tr 
        fst
        ( sym (Quot-rec-β ⦃ Prop-U-is-truncated ⦄ _ _ a)
        ∙ ap (rel-fam a) p
        ∙ Quot-rec-β ⦃ Prop-U-is-truncated ⦄ _ _ b)
        reflexive
```

File: src/Core/SetQuotients.lagda.tree [hunk 2]
```diff
@@ -167,3 +167,41 @@ module _ {𝓤 𝓥} {A : Type 𝓤} {R : A → A → Type 𝓥} where
...
+
+\p{If #{R} is an equivalence relation, then two elements with the same class are
+related. The map #{a \mapsto R(a,-)} descends to the quotient; applied to an
+identification #{[a] = [b]}, it carries #{R(a,a)} to #{R(a,b)}.}
+
+\agda{
+module _ {𝓤 𝓥} {A : Type 𝓤} {R : A → A → Type 𝓥}
+  (E : is-equivalence-relation R)
+  where
+  open is-equivalence-relation E
```
Comment (samtoth) [inline src/Core/SetQuotients.lagda.tree]:
```suggestion
  (open is-equivalence-relation E)
  where
```

File: src/Core/SetQuotients.lagda.tree [hunk 3]
```diff
@@ -167,3 +167,41 @@ module _ {𝓤 𝓥} {A : Type 𝓤} {R : A → A → Type 𝓥} where
...
+    Prop-U-is-truncated = mk-trunc (Trunc-U-is-truncated -1𝕋)
+
+    rel-fam : A → A / R → Prop-U 𝓥
+    rel-fam a
+      = Quot-rec ⦃ Prop-U-is-truncated ⦄
+          (λ x → (R a x , is-truncated←is-prop ~-is-prop))
+          (λ (x , y , r) → Σ-path→
+             ( is-equiv.bwd (propExt ~-is-prop ~-is-prop)
+                 ((λ s → transitive s r) , (λ s → transitive s (symmetric r)))
+             , is-truncated-is-prop -1𝕋 _ _ _))
```
Comment (samtoth) [inline src/Core/SetQuotients.lagda.tree]: We would tend to put these in a 'where' block attached to `unglue-quot`

File: src/Core/SetQuotients.lagda.tree [hunk 4]
```diff
@@ -167,3 +167,41 @@ module _ {𝓤 𝓥} {A : Type 𝓤} {R : A → A → Type 𝓥} where
           BC = f , p , q , λ _ _ → mk-square ((is-set←is-truncated trunc! _ _) _ _)
 }
 }
+
+\subtree[stt-00XJ]{
```
Comment (samtoth) [inline src/Core/SetQuotients.lagda.tree]: The tree Ids get generated automatically before merging, we cannot use the ordered stt-XXXX ones in PRs because there will be lots of clashes when it comes time to merge. Chose a 3 character identifier e.g. `buc`, and then use any numbering you like (I just choose random ones), still in base36.

**Review by samtoth — COMMENTED** [review]
Thanks! Just some style changes.

**Comment by UlrikBuchholtz** [comment]
Thanks, feedback incorporated

File: src/Core/SetQuotients.lagda.tree [hunk 5]
```diff
@@ -167,3 +167,42 @@ module _ {𝓤 𝓥} {A : Type 𝓤} {R : A → A → Type 𝓥} where
...
+  unglue-quot {a} {b} p
+    = tr
+        fst
+        ( sym (Quot-rec-β ⦃ Prop-U-is-truncated ⦄ _ _ a)
+        ∙ ap (rel-fam a) p
+        ∙ Quot-rec-β ⦃ Prop-U-is-truncated ⦄ _ _ b)
+        reflexive
+    where
+      Prop-U-is-truncated : Is-truncated 0 (Prop-U 𝓥)
+      Prop-U-is-truncated = mk-trunc (Trunc-U-is-truncated -1𝕋)
```
Comment (fredrik-bakke) [inline src/Core/SetQuotients.lagda.tree:197]: This can be moved to a global definition right after `Trunc-U-is-truncated` in its respective file, with the name `Prop-U-is-0-truncated`.

Comment (fredrik-bakke) [reply src/Core/SetQuotients.lagda.tree:197]: oh I just realized this is an instance argument. Never mind then
